US06403610B1
2 cm3 of thionyl chloride were added dropwise to a stirred suspension, cooled to a temperature in the region of −30° C. with a cooling bath of acetone and solid carbon dioxide, of 4.29 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxy-carbonyl)piperidine-3-carboxylic acid in 50 cm3 of methanol. The solution obtained was brought to a temperature in the region of 20° C. and the reaction mixture was stirred for 16 hours at this temperature. After evaporating the solution under reduced pressure (5 kPa) at a temperature in the region of 40 ° C., the residue obtained was triturated in approximately 30 cm3 of diisopropyl ether. The crystals obtained were filtered off, washed with 2 times 10 cm3 of diisopropyl ether, and then dried in the air. 4.20 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate hydrochloride were obtained in the form of a solid with a light yellow color which melts with softening at a temperature in the region of 140° C.

reactant | thionyl chloride | 2 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | acetone | CC(=O)C | C3H6O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxy-carbonyl)piperidine-3-carboxylic acid | 4.29 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C24H32N2O5
solvent | methanol | 50 cm3 | CO | CH4O
product | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate hydrochloride | 4.20 g | Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CNCC1)C(=O)OC | InChI=1S/C20H26N2O3.ClH/c1-24-16-6-7-19-17(12-16)14(9-11-22-19)4-3-5-15-8-10-21-13-18(15)20(23)25-2;/h6-7,9,11-12,15,18,21H,3-5,8,10,13H2,1-2H3;1H/t15-,18+;/m1./s1
